US04328041
One thousand and eight grams (4.0 moles) of 1-octadecene and 490 grams (5.0 moles) of maleic anhydride were placed in a 2 liter stirred autoclave equipped with a thermocouple. The reaction was carried out by heating the mixture at 200° C. for 4 hours, and the cooled product was transferred to a 2 liter round bottom flask equipped with a magnetic stir bar, a thermometer, and a distilling head mounted on a Vigreux Column. Unreacted starting materials were removed at 200° C. and 10 torr, leaving the product ODSA (750 grams) in the pot. It was typically a tan solid (m.p. 40°-55° C.) with strong adsorption in its IR spectrum at 1860 and 1785 cm-1.

reactant | 1-octadecene | 4.0 moles, One thousand and eight grams | C=CCCCCCCCCCCCCCCCC | C18H36
reactant | maleic anhydride | 5.0 moles, 490 grams | C1(\C=C/C(=O)O1)=O | C4H2O3
product | Octadecenylsuccinic Anhydride | 750 grams | C(=CCCCCCCCCCCCCCCCC)C1C(=O)OC(C1)=O | C22H38O3
